US04978753
In the manner given in Example 27, 2-amino-7-nitro-5-(o-chlorophenyl)-3H-1,4-benzodiazepine was heated in ethanol with diethyl acetylenedicarboxylate to give 1-carboethoxy-9-nitro-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | 2-amino-7-nitro-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=C(C=CC=C1)Cl)C=C(C=C2)[N+](=O)[O-] | C15H11ClN4O2
reactant | diethyl acetylenedicarboxylate | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
solvent | ethanol | C(C)O | C2H6O
product | 1-carboethoxy-9-nitro-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | C(=O)(OCC)C1=CC(N=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)[N+](=O)[O-])=O | C21H15ClN4O5
